US06498169B1
Synthesis of 4-[N-(Indan-5-yl)-N-[3-(3,4,5-trimethoxyphenyl)benzyl]amino]-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine Dihydrochloride
4-(5-Indanylamino)-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine (60 mg) and 3-(3,4,5-trimethoxyphenyl)benzyl chloride (114 mg) were condensed in the same manner as described in Example 9. The title compound was obtained as yellow powder after converting a free base to a dihydrochloride.

reactant | 4-(5-Indanylamino)-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine | 60 mg | C1CCC2=CC(=CC=C12)NC1CCN(CC1)CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | C29H35N3O3
reactant | 3-(3,4,5-trimethoxyphenyl)benzyl chloride | 114 mg | COC=1C=C(C=C(C1OC)OC)C=1C=C(CCl)C=CC1 | C16H17ClO3
product | 4-[N-(Indan-5-yl)-N-[3-(3,4,5-trimethoxyphenyl)benzyl]amino]-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine Dihydrochloride | Cl.Cl.C1CCC2=CC(=CC=C12)N(CC1=CC(=CC=C1)C1=CC(=C(C(=C1)OC)OC)OC)C1CCN(CC1)CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | InChI=1S/C45H51N3O6.2ClH/c1-49-40-24-35(25-41(50-2)44(40)53-5)33-11-7-9-30(21-33)29-48(38-14-13-32-10-8-12-34(32)23-38)37-16-19-47(20-17-37)28-31-15-18-46-39(22-31)36-26-42(51-3)45(54-6)43(27-36)52-4;;/h7,9,11,13-15,18,21-27,37H,8,10,12,16-17,19-20,28-29H2,1-6H3;2*1H
